US07687632B2
2-hydroxy-4-(trifluoromethyl)pyridine
103.5 g (0.35 mol) 3-trifluoromethyl-diethoxypentene acid ethyl ester (mixture of isomers, amount based on GC area-%) and 51.3 g (0.665 mol) ammonium acetate were heated to 150-155° C. over 8 h. A mixture of ethanol, acetic acid and acetic acid ethyl ester (ca. 60 g) was distilled off through a small column (20 cm, filled with 3 mm rings) during this heating period. The sump (79.8 g) can directly be transferred to the next step (yield has been determined only after final methoxylation step).

reactant | 3-trifluoromethyl-diethoxypentene | 0.35 mol, 103.5 g | FC(C(C=C(OCC)OCC)CC)(F)F | C10H17F3O2
reactant | ammonium acetate | 0.665 mol, 51.3 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid ethyl ester | ca. 60 g | C(C)OC(C)=O | C4H8O2
product | 2-hydroxy-4-(trifluoromethyl)pyridine | OC1=NC=CC(=C1)C(F)(F)F | C6H4F3NO
